US08431569B2
Step 2. 8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide
8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile (46.5 mg, 0.13 mmol) and K2CO3 (108 mg, 0.78 mmol) was dissolved in DMSO (2.6 ml). Hydrogen peroxide (30%, 0.100 ml, 1.04 mmol) was added and the solution was heated at 70° C. for three hours. HPLC/MS then showed complete conversion. The solution was cooled to ambient temperature and directly purified by reverse phase HPLC. Desired fractions were combined, diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate solution: The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the title compound. 1H NMR (600 MHz, CD30OD) δ 8.37 (s, 1H); 8.16 (dd, 1H); 7.64 (dd, 1H); 7.21 (dt, 1H); 6.98 (dd, 2H). LRMS (APCI) calc'd for (C18H10F4N4O) [M+H]+, 375.1. found 375.0.

reactant | 8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.13 mmol, 46.5 mg | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3=C(C=C(C=C3F)F)F)C#N | C18H8F4N4
reactant | K2CO3 | 0.78 mmol, 108 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Hydrogen peroxide | 1.04 mmol, 0.100 ml | OO | H2O2
solvent | DMSO | 2.6 ml | CS(=O)C | C2H6OS
product | 8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3=C(C=C(C=C3F)F)F)C(=O)N | C18H10F4N4O
